US04985584
17. Preparation of 2,4,6-tris-(1-azetidinyl)-1,3,5-triazine (LXXVI)
Compound LXXVI was prepared after the method of Schaefer (J Am Chem Soc (1955) 77 p592B). The hydrochloride salt of azetidine was reacted with cyanuric chloride in water to give compound LXXVI as a white solid (yield 78%) having a melting point of 225°-238° C. The 1Hnmr of this compound indicated that its identity was correct and that its purity was adequate for subsequent reactions without further purification.

reactant | azetidine | N1CCC1 | C3H7N
reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | water | O | H2O
product | 2,4,6-tris-(1-azetidinyl)-1,3,5-triazine | yield 78% | N1(CCC1)C1=NC(=NC(=N1)N1CCC1)N1CCC1 | C12H18N6
